US06927221B2
3-Mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6,7-dicarboxylic acid
Potassium hydroxide (441 mg, 11.04 mmol) was added to a solution of ethyl 7-cyano-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-carboxylate (800 mg, 2.21 mmol) in ethanol (15 mL), followed by heating under reflux for two hours. The reaction mixture was evaporated, water was added. Under ice-cooling, 2N hydrochloric acid was added to adjust the pH of the mixture to pH 1. The mixture was extracted with ethyl acetate, and the organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give the title compound (780 mg).

reactant | Potassium hydroxide | 11.04 mmol, 441 mg | [OH-].[K+]
reactant | ethyl 7-cyano-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-carboxylate | 2.21 mmol, 800 mg | C(#N)C1=C(C(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C)C(=O)OCC | C21H22N4O2
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | 3-Mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6,7-dicarboxylic acid | 780 mg | C1(=C(C(=CC(=C1)C)C)C=1C(=NN2C1N=C(C(=C2C(=O)O)C(=O)O)C)C)C | C19H19N3O4
